US08383644B2
(S)-2-({(S)-7-(6-Chloro-2-methyl-pyridine-3-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (30 mg) was treated with morpholine according to General Procedure U to give (S)-3-(4′-Cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-(2-methyl-6-morpholin-4-yl-pyridine-3-sulfonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester (24 mg).

reactant | (S)-2-({(S)-7-(6-Chloro-2-methyl-pyridine-3-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 30 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C=3C(=NC(=CC3)Cl)C)=O | C48H39Cl3N4O8S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-(2-methyl-6-morpholin-4-yl-pyridine-3-sulfonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester | 24 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C=3C(=NC(=CC3)N3CCOCC3)C)=O | C52H47Cl2N5O9S
